US06534530B1
Potassium hydride (35 wt % in mineral oil, 2.29 g, 20.0 mmol, 2.0 equiv) was stirred in hexanes (10 mL) for 5 min, and then stirring was stopped and the solid allowed to settle. Most of the hexanes layer was removed by pipette, and the residual solvent removed under vacuum. The resulting dry KH powder was suspended in THF (20 mL) and phenethyl alcohol (1.22 g, 10.0 mmol, 1 equiv) was added (causing gas evolution). After stirring at 23° C. for 2.5 h, a thick precipitate formed. The mixture was cooled to 0° C. and a solution of iodomethyltributyltin (prepared according to Seitz, et al., Synth. Commun. (1983), vol. 13, 129) (6.46 g, 15.0 mmol, 1.5 equiv) in THF (15 mL) was added via cannula over 10 min. The mixture was warmed to 23° C. for 3.5 h, and then cooled to −78° C. The reaction was quenched with saturated aqueous NH4Cl solution (25 mL), warmed to 23° C., and extracted with Et2O (200 mL). The organic extracts were dried over MgSO4, filtered, and concentrated. Purification of the residue by flash column chromatography (hexanes) afforded tributyl-phenethyloxymethyl-stannane (3.73 g, 88% yield) as a colorless liquid. Rf=0.63 (4% EtOAc in hexanes). IR (cm−1) 2955, 2924, 2852, 1464, 1082. 1H NMR (CDCl3) δ0.90 (t, J=7.2, 15H), 1.31 (sextet, J=7.4, 6H), 1.50 (quintet, J=7.4, 6H), 2.86 (t, J=7.0, 2H), 3.54 (t, J=7.0, 2H), 3.75 (s, 2H), 7.15-7.33 (m, 5H). 13C NMR (CDCl3) δ9.01, 13.66, 27.28, 29.12, 36.36, 61.94, 76.38, 125.94, 128.17, 128.91, 139.50.

reactant | Potassium hydride | 20.0 mmol, 2.29 g, 2.0 equiv | [H-].[K+]
reactant | phenethyl alcohol | 10.0 mmol, 1.22 g, 1 equiv | C(CC1=CC=CC=C1)O | C8H10O
reactant | iodomethyltributyltin | 15.0 mmol, 6.46 g, 1.5 equiv | IC[Sn](CCCC)(CCCC)CCCC
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | tributyl-phenethyloxymethyl-stannane | 3.73 g, 88% yield | C(CCC)[Sn](COCCC1=CC=CC=C1)(CCCC)CCCC | InChI=1S/C9H11O.3C4H9.Sn/c1-10-8-7-9-5-3-2-4-6-9;3*1-3-4-2;/h2-6H,1,7-8H2;3*1,3-4H2,2H3;
